US05559230
5-Ethoxycarbonylmethoxy-1-[4-(2,4-dichlorobenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.94 g) is dissolved in ethanol (100 ml) and thereto is added 5N aqueous sodium hydroxide solution (0.50 ml). The mixture is stirred at room temperature for 2 hours. The reaction solution is concentrated under reduced pressure and to the resulting residue is added diluted hydrochloric acid and then extracted with dichloromethane. The extract is dried over magnesium sulfate and the solvent is distilled off. The resulting residue is washed with n-hexane and collected by filtration to give 5-carboxymethoxy-1-[4-(2,4-dichlorobenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.79 g) as colorless amorphous.

reactant | 5-Ethoxycarbonylmethoxy-1-[4-(2,4-dichlorobenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.94 g | C(C)OC(=O)COC1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=C(C=C2)Cl)Cl)=O)=O | C28H26Cl2N2O5
reactant | sodium hydroxide | 5N, 0.50 ml | [OH-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5-carboxymethoxy-1-[4-(2,4-dichlorobenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.79 g | C(=O)(O)COC1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=C(C=C2)Cl)Cl)=O)=O | C26H22Cl2N2O5
